US04303660
3.8 g (0.015 mole) of 1-nitro-5,5-dimethyl-5,6-dihydropyrazolo[1,5-c]quinazoline is reduced with hydrogen in ethanol in the presence of palladium/carbon. When the hydrogen consumption ceases, the catalyst is removed and the solvent is evaporated. Thus, 2.42 g (76%) of 1-amino-5,5-dimethyl-5,6-dihydropyrazolo[1,5-c]quinazoline are obtained. M.p.: 181°-183° C. The hydrochloride can be precipitated by treating the free amine in ethanol with anhydrous hydrogen chloride dissolved in ethyl acetate. M.p.: 244°-245° C.

reactant | 1-nitro-5,5-dimethyl-5,6-dihydropyrazolo[1,5-c]quinazoline | 0.015 mole, 3.8 g | [N+](=O)([O-])C=1C=NN2C(NC=3C=CC=CC3C21)(C)C | C12H12N4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium/carbon | [Pd] | Pd
product | 1-amino-5,5-dimethyl-5,6-dihydropyrazolo[1,5-c]quinazoline | 2.42 g, 76% | NC=1C=NN2C(NC=3C=CC=CC3C21)(C)C | C12H14N4
